US09227930B2
To ethyl 1-benzyl-6-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)-2,3-dihydro-1H-inden-2-ylcarbamate (192 mg, 0.385 mmol) was added 2N potassium hydroxide in ethanol (10 mL, 20.00 mmol) and microwave at 100° C. for 1 h. Washed with 50% brine and extracted with dichloromethane. The combined org. layers were washed with brine, dried, filtered and evaporated to obtain the desired N-(2-(2-amino-3-benzyl-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide as an orange grease. m=142 mg (63%)

reactant | ethyl 1-benzyl-6-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)-2,3-dihydro-1H-inden-2-ylcarbamate | 0.385 mmol, 192 mg | C(C1=CC=CC=C1)C1C(CC2=CC=C(C=C12)OCCNS(=O)(=O)C=1N=CN(C1)C)NC(OCC)=O | C25H30N4O5S
reactant | potassium hydroxide | 2N | [OH-].[K+]
reactant | ethanol | 20.00 mmol, 10 mL | C(C)O | C2H6O
product | N-(2-(2-amino-3-benzyl-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide | NC1CC2=CC=C(C=C2C1CC1=CC=CC=C1)OCCNS(=O)(=O)C=1N=CN(C1)C | C22H26N4O3S
